US06313122B1
A. 2-Amino-N-(3-benzyloxyphenyl)-4-nitrobenzamide
Using the procedure described in Example 91, Part B, 3-benzyloxyaniline (4.4 mmol) and 4-nitroisatoic anhydride (4.8 mmol) yielded 1.2 g (81%) of the title product.

reactant | 3-benzyloxyaniline | 4.4 mmol | C(C1=CC=CC=C1)OC=1C=C(N)C=CC1 | C13H13NO
reactant | 4-nitroisatoic anhydride | 4.8 mmol | [N+](=O)([O-])C=1C=C2C(C(=O)OC(N2)=O)=CC1 | C8H4N2O5
product | 2-Amino-N-(3-benzyloxyphenyl)-4-nitrobenzamide | 1.2 g, 81% | NC1=C(C(=O)NC2=CC(=CC=C2)OCC2=CC=CC=C2)C=CC(=C1)[N+](=O)[O-] | C20H17N3O4
